US06333425B1
50.74 (300 mmoles) of 2-amino-5-trifluoromethyl-1,3,4-thiadiazole (commercially available from Aldrich,) were added under stirring to a mixture of 100 ml of concentrated hydrochloric acid and 30 ml of glacial acetic acid. The reaction mixture was brought to −10° C. and there is slowly added 22.42 g (325 mmoles) of sodium nitrite NaNO2 in 35 ml of water. The diazotation reaction is continued for 1 hour. At the same time, a flow of sulfur dioxide SO2 (commercially available from Fluka) in 300 ml of glacial acetic acid was passed through a fritted member until saturation, Then, there is added 7.5 g of copper(I) chloride CuCl and the addition of sulfur dioxide was continued until the color of the reaction mixture changed from yellow-green to blue-green. After having brought the reaction mixture to a temperature <10° C., during a period of 30 min, the previously prepared diazonium was added. A small amount of ether was added to decrease the quantity of foam which is formed after each addition. After the end of the addition of diazonium, the reaction mixture was poured into 1 litre of a mixture of water-ice (1:1). After melting of the ice, a yellow oil was separated in a decanting ampulla, and the aqueous phase was extracted with two fractions of 100 ml ether. After addition of the ether phase to the collected oil, the solution was washed with a concentrated solution of sodium bicarbonate until neutrality, then with water, and finally it was dried with magnesium sulfate. After evaporation of the solvent, there is recovered after distillation under vacuum 46.99 g of 2-sulfonyl-5-trifluoromethyl-1,3,4-thiadiazole chloride (62% yield) with a purity characterized by a proton and fluorine RMN higher than 98%.

reactant | 2-amino-5-trifluoromethyl-1,3,4-thiadiazole | NC=1SC(=NN1)C(F)(F)F | C3H2F3N3S
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | ether | CCOCC | C4H10O
solvent | water | 35 ml | O | H2O
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-sulfonyl-5-trifluoromethyl-1,3,4-thiadiazole chloride | 46.99 g, 62% yield | [Cl-].S(=O)(=O)=C1SC(=NN1)C(F)(F)F | InChI=1S/C3HF3N2O2S2.ClH/c4-3(5,6)1-7-8-2(11-1)12(9)10;/h8H;1H/p-1
